US05808062
4-Hydroxy-6-[3-(2-phenylethoxy)phenyl]-3-[(2-phenyl-ethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-(2-phenylethoxy)-acetophenone (0.336 g, 1.40 mmol), lithium bis(trimethylsilyl)amide (0.257 g, 1.54 mmol), chlorotrimethylsilane (0.195 mL, 1.54 mmol), THF (15 mL), and diethyl ester of [(2-phenylethyl)thio]-propanedioic acid (0.417 g, 1.40 mmol). m.p. 104°-106° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.75 (t, 2 H), 2.97 (t, 2 H), 3.04 (t, 2 H), 4.25 (t, 2 H), 6.79 (s, 1 H), 7.25 (m, 14H), 11.95 (bs, 1 H).

reactant | 3'-(2-phenylethoxy)-acetophenone | 1.40 mmol, 0.336 g | C1(=CC=CC=C1)CCOC=1C=C(C=CC1)C(C)=O | C16H16O2
reactant | lithium bis(trimethylsilyl)amide | 1.54 mmol, 0.257 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 1.54 mmol, 0.195 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(2-phenylethyl)thio]-propanedioic acid | 1.40 mmol, 0.417 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-Hydroxy-6-[3-(2-phenylethoxy)phenyl]-3-[(2-phenyl-ethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=CC=C1)OCCC1=CC=CC=C1)=O)SCCC1=CC=CC=C1 | C27H24O4S
